US07538123B2
1.41 g of 6-methoxy-7-(2-methoxyvinyl)quinoline was dissolved in 40 ml of 2 N hydrochloric acid-tetrahydrofuran (1:1), and the obtained mixture was then stirred at 70° C. for 2 hours. The reaction solution was cooled to a room temperature. It was diluted with ethyl acetate and then washed with a saturated sodium bicarbonate aqueous solution and a saturated sodium chloride aqueous solution. The organic layer was dried over magnesium sulfate and then concentrated under a reduced pressure, so as to obtain 1.45 g of (6-methoxyquinolin-7-yl)acetaldehyde containing triphenylphosphine oxide. This compound was used in the following reaction without further purification.

reactant | 6-methoxy-7-(2-methoxyvinyl)quinoline | 1.41 g | COC=1C=C2C=CC=NC2=CC1C=COC | C13H13NO2
solvent | hydrochloric acid tetrahydrofuran | 2 N, 40 ml | Cl.O1CCCC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (6-methoxyquinolin-7-yl)acetaldehyde | 1.45 g | COC=1C=C2C=CC=NC2=CC1CC=O | C12H11NO2
